***** AC Test for the 4 Terminal Attenuator

.ac start=1 stop=1e6 n_freqs=100

***** Circuit Network
vsource:v1 1 0 vac=4

resistor:rin 1 2 r=50

attenuatorgen:a1 2 0 3 0 zo=50 alpha=20

resistor:rout 3	0 r=50

***** Time Domain
.options gnuplot 
.out plot term 2 vf mag in "InputAtTerminal2.out"
.out plot term 3 vf mag in "InputAtTerminal34.out"

.end


